US05322954
4-Chloro-3,6-dihydrophthalic anhydride
Chloroprene (13.6 g) and bromomaleic anhydride 14.6 g) were added together and the solution was heated to 50° C. for 11.5 hours. The reaction mixture was taken up in hot petroleum ether (bp 60° to 80° C.) and filtered. After cooling to room temperature, a solid was collected (6.2 g)- An additional 5 g of material remained in the mother liquors. The material consisted of a mixture of 4-chloro-3,6-dihydrophthalic anhydride, 4-chloro-l-bromo-1,2,3,6-tetrahydrophthalic anhydride and 4-chloro-2-bromo-1,2,3,6-tetrahydrophthalic anhydride.

reactant | Chloroprene | 13.6 g | C=CC(=C)Cl | C4H5Cl
reactant | bromomaleic anhydride | 14.6 g | Br/C=1/C(=O)OC(\C1)=O | C4HBrO3
product | 4-Chloro-3,6-dihydrophthalic anhydride | ClC=1CC2=C(C(=O)OC2=O)CC1 | C8H5ClO3
